US07601856B2
Triethylamine (2.0 mL, 14 mmol) was added to a cooled (0° C.) solution of 6,7,8,9-tetrahydro-dibenzofuran-2-ylamine (0.86 g, 4.6 mmol). The reaction mixture was stirred for 10 minutes at 0° C. and then trimethylacetyl chloride (0.60 mL, 4.8 mmol) was added. The ice bath was removed and the reaction mixture was stirred for 30 min and then concentrated. The crude material was dissolved in chloroform and washed with 10% aqueous ammonium hydroxide, water, and brine, dried (Na2SO4) and concentrated. The crude material was recrystallized from acetonitrile to provide 2,2-dimethyl-N-(6,7,8,9-tetrahydro-dibenzofuran-2-yl)-propionamide (0.80 g). Mp 210-211° C.; Anal. Calcd. for C17H21NO2: C, 75.25; H, 7.80; N, 5.16; Found: C, 75.33; H, 7.64; N, 5.07.

reactant | Triethylamine | 14 mmol, 2.0 mL | C(C)N(CC)CC | C6H15N
reactant | 6,7,8,9-tetrahydro-dibenzofuran-2-ylamine | 4.6 mmol, 0.86 g | C1=C(C=CC=2OC3=C(C21)CCCC3)N | C12H13NO
reactant | trimethylacetyl chloride | 4.8 mmol, 0.60 mL | CC(C(=O)Cl)(C)C | C5H9ClO
product | 2,2-dimethyl-N-(6,7,8,9-tetrahydro-dibenzofuran-2-yl)-propionamide | 0.80 g | CC(C(=O)NC1=CC2=C(OC3=C2CCCC3)C=C1)(C)C | C17H21NO2
